US08536165B2
2-(6-Chloropyridin-3-ylamino)-5-methylbenzoic acid
A mixture of 6-chloropyridin-3-amine (11.67 mmol, 1.5 g) and 2-bromo-5-methylbenzoic acid (23.34 mmol, 5.02 g), Cu (1.17 mmol, 0.1 g), Cu2O (0.58 mmol, 0.1 g) and K2CO3 (23.34 mmol, 3.2 g) in 1,2-dimethoxyethane (15 ml) was heated at 130° C. for 16 hours, under argon atmosphere. Water was added and the mixture was filtered through celite. HCl 2N aqueous solution was added until pH 6 and the solid formed was filtered off. The crude was purified by chromatography eluting with DCM/MeOH mixtures affording 1.40 g (yield 46%).

reactant | 6-chloropyridin-3-amine | 11.67 mmol, 1.5 g | ClC1=CC=C(C=N1)N | C5H5ClN2
reactant | 2-bromo-5-methylbenzoic acid | 23.34 mmol, 5.02 g | BrC1=C(C(=O)O)C=C(C=C1)C | C8H7BrO2
reactant | K2CO3 | 23.34 mmol, 3.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | 2-(6-Chloropyridin-3-ylamino)-5-methylbenzoic acid | yield 46% | ClC1=CC=C(C=N1)NC1=C(C(=O)O)C=C(C=C1)C | C13H11ClN2O2
